US08071779B2
N-(1-(3-(Methylthio)benzyl)piperidin-3-yl)-1H-indazol-5-amine, Compound 1.040
Into a round bottom flask was added 2,2-dimethyl-1-(5-(1-(3-(methylthio)benzoyl)-piperidin-3-ylamino)-1H-indazol-1-yl)propan-1-one (240 mg, 0.655 mmol) and THF (3 mL). The solution was heated to 60° C. and borane-dimethyl sulfide complex in THF (3.0 mL of a 2.0M solution in THF, 6.0 mmol) was added, allowing dimethyl sulfide to distill off. After the starting material was consumed, the reaction was evaporated, 5N NaOH (10 mL) was added, and the mixture was extracted with EtOAc. The organic phases were dried, evaporated, and the residue was chromatographed on silica gel, eluting with 3/1—EtOAc/Heptane to afford the title compound (95 mg, 41%).

reactant | 2,2-dimethyl-1-(5-(1-(3-(methylthio)benzoyl)-piperidin-3-ylamino)-1H-indazol-1-yl)propan-1-one | 0.655 mmol, 240 mg | CC(C(=O)N1N=CC2=CC(=CC=C12)NC1CN(CCC1)C(C1=CC(=CC=C1)SC)=O)(C)C | C25H30N4O2S
reactant | dimethyl sulfide | CSC | C2H6S
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | N-(1-(3-(Methylthio)benzyl)piperidin-3-yl)-1H-indazol-5-amine | 95 mg, 41% | CSC=1C=C(CN2CC(CCC2)NC=2C=C3C=NNC3=CC2)C=CC1 | C20H24N4S
